US04254267
(C) (±)-4,5-Dihydro-1-(benzyloxycarbonyl)-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid, t-butyl ester
A mixture of 6.6 g of (±)-4,5-dihydro-1-(benzyloxycarbonyl)-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid, 5 ml of isobutylene, 25 ml of ether and 0.25 ml of concentrated sulfuric acid is shaken in a pressure vessel for about 16 hours. The reaction vessel is vented (-10° C.) and the contents are washed with ice cold aqueous sodium hydroxide. The organic fraction is dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title compound.

reactant | (±)-4,5-dihydro-1-(benzyloxycarbonyl)-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid | 6.6 g | C(C1=CC=CC=C1)OC(=O)N1N=C(CC1C(=O)O)C=1SC=CC1 | C16H14N2O4S
reactant | isobutylene | 5 ml | CC(C)=C | C4H8
reactant | sulfuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | 25 ml | CCOCC | C4H10O
product | (±)-4,5-Dihydro-1-(benzyloxycarbonyl)-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid, t-butyl ester | C(C1=CC=CC=C1)OC(=O)N1N=C(CC1C(=O)OC(C)(C)C)C=1SC=CC1 | C20H22N2O4S
